US04559354
A solution of 5.2 g of 1-[4-(1,6-dihydro-1-methyl-6-oxo-2-pyridyl)-phenoxy]-3-[2-(3-carbamoyl-4-hydroxyphenoxy)-N-benzylethylamino]-2-propanol in 100 ml of methanol is hydrogenated under normal conditions in the presence of 1 g of palladium-on-carbon catalyst (5%). The hydrogenated mixture is filtered with suction, the filtrate is concentrated to dryness by evaporation and the residue is washed with ethyl acetate. Recrystallisation from isopropanol yields pure 1-[4-(1,6-dihydro-1-methyl-6-oxo-2-pyridyl)-phenoxy]-3-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-2-propanol having a melting point of 148°-150°.

reactant | 1-[4-(1,6-dihydro-1-methyl-6-oxo-2-pyridyl)-phenoxy]-3-[2-(3-carbamoyl-4-hydroxyphenoxy)-N-benzylethylamino]-2-propanol | 5.2 g | CN1C(=CC=CC1=O)C1=CC=C(OCC(CNCC(OC2=CC(=C(C=C2)O)C(N)=O)CC2=CC=CC=C2)O)C=C1 | C31H33N3O6
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 1-[4-(1,6-dihydro-1-methyl-6-oxo-2-pyridyl)-phenoxy]-3-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-2-propanol | CN1C(=CC=CC1=O)C1=CC=C(OCC(CNCCOC2=CC(=C(C=C2)O)C(N)=O)O)C=C1 | C24H27N3O6
